US05972241
Preparation of 5-(4-(Butoxy)butoxy)-2-[4-(-3-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)phenyl]pyrimidine
The title compound was prepared by combining 5-(4-hydroxy-2-[4-(3-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)phenyl]pyrimidine (2.0 g, prepared essentially as in Example 18), 4-butoxybutyl chloride (0.63 g), and potassium carbonate (0.58 g) in a mixture of acetonitrile (12 mL) and dimethylformamide (16 mL). The resulting mixture was heated to 63° C. for 12 hours. Deionized water (30 mL) was added to the mixture, and the mixture was cooled to 0° C. and filtered to obtain the resulting crude product. The crude product was recrystallized form ethanol and further purified by Kugelrohr distillation (b.p. 196° C. at 0.04 torr; yield 1.71 g).

reactant | 4-hydroxy-2-[4-(3-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)phenyl]pyrimidine | OC1=NC(=NC=C1)C1=CC=C(C=C1)OC[C@H](COCC(F)(F)OC(C(OC(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C20H14F14N2O6
reactant | 4-butoxybutyl chloride | 0.63 g | C(CCC)OCCCCCl | C8H17ClO
reactant | potassium carbonate | 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 30 mL | O | H2O
reactant | acetonitrile | 12 mL | C(C)#N | C2H3N
solvent | dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
product | 5-(4-(Butoxy)butoxy)-2-[4-(-3-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)phenyl]pyrimidine | C(CCC)OCCCCOC=1C=NC(=NC1)C1=CC=C(C=C1)OC[C@H](COCC(F)(F)OC(C(OC(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C28H30F14N2O7
